US07807676B2
A mixture of 7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridine (250 mg, 1.101 mmol), potassium carbonate (457 mg, 3.30 mmol), copper(I) iodide (105 mg, 0.551 mmol), N-(1H-1,2,4-triazol-3-yl)pivalamide and (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine (78 mg, 0.551 mmol) in 1,4-dioxane (2 mL) were heated up at 110° C. for 13 h. The reaction mixture was filtered through a silica gel pad and concentrated under reduced pressure. The resulting crude was purified by prep HPLC to give N-(1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)pivalamide (90 mg, 26%) as pale yellow oil. LCMS: m/e 315.05 (M+H)+, ret time 1.55 min (method 8).

reactant | 7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridine | 1.101 mmol, 250 mg | BrC=1N=CC(=C2C1NC=C2)OC | C8H7BrN2O
reactant | potassium carbonate | 3.30 mmol, 457 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(1H-1,2,4-triazol-3-yl)pivalamide | N1N=C(N=C1)NC(C(C)(C)C)=O | C7H12N4O
reactant | (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine | 0.551 mmol, 78 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.551 mmol, 105 mg | [Cu]I
product | N-(1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)pivalamide | 90 mg, 26% | COC1=C2C(=C(N=C1)N1N=C(N=C1)NC(C(C)(C)C)=O)NC=C2 | C15H18N6O2
